US05741910
4-(N-methylcarbamoyl)-4-phenylpiperidine
1.98 g of triethylamine are added to a solution of 1.5 g of the compound obtained in the preceding stage in 5 ml of DCM and 5 ml of DMF, followed by 0.49 g of methylamine hydrochloride. The mixture is cooled on an ice bath, 2.39 g of BOP are added and the mixture is kept stirring for 24 hours while allowing the temperature to rise to RT. The reaction mixture is concentrated under vacuum, the residue extracted with ether, washed with water, with a buffer solution pH=2, with water, with a 10% solution of NaOH, with water, with a saturated solution of NaCl, dried over MgSO4 and evaporated under vacuum. 1.4 g of the expected product are obtained.

reactant | triethylamine | 1.98 g | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 0.49 g | Cl.CN
reactant | BOP | 2.39 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(N-methylcarbamoyl)-4-phenylpiperidine | 1.4 g | CNC(=O)C1(CCNCC1)C1=CC=CC=C1 | C13H18N2O
